US09447106B2
A mixture of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (412 mg, 1.4 mmol) and tert-butyl 4-(3-ethoxy-3-oxopropanoyl)piperidine-1-carboxylate (420 mg, 1.4 mmol) in HOAc (20 mL) was stirred at 90° C. for 16 hr. The solvent was removed under vacuum, and the residue was partitioned between aq. NaHCO3 and ethyl acetate. The organic layer was washed with brine, dried over Na2SO4 and concentrated under vacuum. The residue was purified by Pre-HPLC eluting from 25% to 90% CH3CN in 0.1% TFA in H2O. Fractions containing the desired product were combined and lyophilized overnight to afford 5-oxo-2-(4-phenoxyphenyl)-7-(piperidin-4-yl)-4,5-dihydropyrazolo[1,5-a]pyrimidine-3-carboxamide (0.3 g, 50%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 11.71 (br s, 1H), 8.68-8.65 (m, 1H), 8.42-8.39 (m, 1H), 7.74 (d, J=8.4 Hz, 2H), 7.47-7.41 (m, 2H), 7.22-7.18 (m, 1H), 7.14-7.09 (m, 4H), 5.72 (s, 1H), 3.50-3.35 (m, 2H), 3.17-3.06 (m, 1H), 3.01-2.87 (m, 2H), 2.15-2.05 (m, 2H), 1.83-1.72 (m, 2H). MS (ESI) m/e [M+1]+ 430.1.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 1.4 mmol, 412 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C16H14N4O2
reactant | tert-butyl 4-(3-ethoxy-3-oxopropanoyl)piperidine-1-carboxylate | 1.4 mmol, 420 mg | C(C)OC(CC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H25NO5
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | 5-oxo-2-(4-phenoxyphenyl)-7-(piperidin-4-yl)-4,5-dihydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.3 g, 50% | O=C1NC=2N(C(=C1)C1CCNCC1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C24H23N5O3
